US07829566B2
2-(2-Naphthalen-1-yl-vinyl)-3H-quinazolin-4-one (11 mmol), phosphorus oxychloride (20 ml) and N,N-diethylaniline (1.0 ml) is added to a round-bottomed flask. The mixture is heated at 110° for 12 h. After cooling to rt, the reaction is quenched with ice-water and the crude product is collected by suction filtration. The crude solid is dissolved in ethyl acetate. Customary working up afforded 4-chloro-2-(2-naphthalen-1-yl-vinyl)-3,4-dihydro-quinazoline.

reactant | 2-(2-Naphthalen-1-yl-vinyl)-3H-quinazolin-4-one | 11 mmol | C1(=CC=CC2=CC=CC=C12)C=CC1=NC2=CC=CC=C2C(N1)=O | C20H14N2O
reactant | N,N-diethylaniline | 1.0 ml | C(C)N(C1=CC=CC=C1)CC | C10H15N
reactant | phosphorus oxychloride | 20 ml | P(=O)(Cl)(Cl)Cl | Cl3OP
product | 4-chloro-2-(2-naphthalen-1-yl-vinyl)-3,4-dihydro-quinazoline | ClC1NC(=NC2=CC=CC=C12)C=CC1=CC=CC2=CC=CC=C12 | C20H15ClN2
